US07812025B2
(1) 1-[3-(3-Furyl)phenyl]piperazine
A mixed solution of 1-(3-bromophenyl)-piperazine (100 mg, 0.415 mmol), 3-furylboronic acid (69.6 mg, 0.622 mmol), tetrakis(triphenylphosphine)palladium (57.5 mg, 0.050 mmol), 2N aqueous solution of sodium carbonate (1.66 ml, 3.32 mmol) in toluene (4.0 ml) was stirred at 95° C. for 14 hours under a nitrogen atmosphere. After cooling to room temperature, water was poured into the reaction solution, and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, and the solvent was distilled away under reduce pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate) to give the titled compound 45.4 mg (47.9%) as an oil.

reactant | 1-(3-bromophenyl)-piperazine | 0.415 mmol, 100 mg | BrC=1C=C(C=CC1)N1CCNCC1 | C10H13BrN2
reactant | 3-furylboronic acid | 0.622 mmol, 69.6 mg | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | sodium carbonate | 3.32 mmol, 1.66 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | toluene | 4.0 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.050 mmol, 57.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[3-(3-Furyl)phenyl]piperazine | 45.4 mg, 47.9% | O1C=C(C=C1)C=1C=C(C=CC1)N1CCNCC1 | C14H16N2O
